US05728500
7.39 g (0.035 mol) of the above prepared 5-(N-acetylamino)acenaphthene was mixed with 10.91 g (0.05 mol) of p-iodo toluene, 0.32 g (0.005 mol) of copper powder, 5.52 g (0.04 mol) of anhydrous potassium carbonate and 10 ml of nitrobenzene, and the mixture was stirred at 200° C. for 6 hours. The reaction was determined to be finished when disappearance of 5-(N-acetylamino)acenaphthene was identified. To the resultant reaction mixture, was added an aqueous solution having 10 ml of isoamyl alcohol and 9.8 g (0.15 mol) of 85% potassium hydroxide dissolved in 10 ml of water, and the resultant mixture was subjected to hydrolysis reaction at 130°-140° C. for 4 hours. After identifying the end of the hydrolysis reaction, 100 ml of water was added thereto, and isoamyl alcohol and nitrobenzene were distilled off by azeotropic distillation. 100 ml of toluene was then added to the remaining material to dissolve the reaction product, and the toluene layer was separated. The toluene layer was washed with 100 ml of water, and was concentrated. An oily product thus obtained was purified by column chromatography (carrier: silica gel, eluent: toluene/hexane=1/4). As this result, 6.56 g (yield: 72.3%, melting point: 96.2°-96.8° C.) of 5-[N-(4-tolyl)amino]acenaphthene was obtained.

reactant | 5-(N-acetylamino)acenaphthene | C(C)(=O)NC1=CC=C2CCC=3C=CC=C1C32 | C14H13NO
reactant | p-iodo toluene | 0.05 mol, 10.91 g | IC1=CC=C(C=C1)C | C7H7I
reactant | potassium carbonate | 0.04 mol, 5.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | nitrobenzene | 10 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | potassium hydroxide | 0.15 mol, 9.8 g | [OH-].[K+]
solvent | water | 10 ml | O | H2O
catalyst | copper | 0.005 mol, 0.32 g | [Cu] | Cu
solvent | water | 100 ml | O | H2O
solvent | isoamyl alcohol | 10 ml | C(CC(C)C)O | C5H12O
product | 5-[N-(4-tolyl)amino]acenaphthene | 6.56 g, yield: 72.3% | C1(=CC=C(C=C1)NC1=CC=C2CCC=3C=CC=C1C32)C | C19H17N
